US07989438B2
Step 7: methyl (7S)-14-cyclohexyl-7-({1-[2-(methylamino)ethyl]pyrrolidin-2-yl}methoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
A solution of methyl (7S)-7-[(1-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (0.06 M) in DCM was treated with an excess of TFA (>50 eq). The mixture was stirred at RT for 2 h. Volatiles were removed in vacuo and the residue partitioned between EtOAc and sat. aq. NaHCO3. The aqueous was extracted with EtOAc and the organics combined, washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to afford the product (82%). The material was taken on without further purification. (ES+) m/z 546 (M+H)+.

reactant | methyl (7S)-7-[(1-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 0.06 M | C(C)(C)(C)OC(=O)N(CCN1C(CCC1)CO[C@@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)C | C38H51N3O6
reactant | TFA | >50 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl (7S)-14-cyclohexyl-7-({1-[2-(methylamino)ethyl]pyrrolidin-2-yl}methoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 82% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@@H](COC3=C(C21)C=CC=C3)OCC3N(CCC3)CCNC)C(=O)OC | C33H43N3O4
